US07101899B1
N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide
Bromine (1.0 mL, 19 mmol) was added to a solution of 2-(2-benzoylamino-4-pyridyl)-1-(3,5-dimethylphenyl)ethanone (6.4 g, 19 mmol) in acetic acid (80 mL) at 0° C. and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated. The residue was dissolved in acetonitrile (100 mL), to the solution were added thiourea (1.5 g, 19 mmol) and triethylamine (2.8 mL, 20 mmol) and the mixture was stirred at 80° C. for 3 hours. After the reaction mixture was cooled to room temperature, a saturated aqueous solution of sodium hydrogencarbonate (200 mL) was added and the resulting solid was collected by filtration and washed with water. The resulting crude crystals were collected by filtration and washed with water. The crude crystals were recrystallized from ethanol to obtain 5.0 g (13 mmol, yield 68%) of the title compound.

reactant | Bromine | 19 mmol, 1.0 mL | BrBr | Br2
reactant | 2-(2-benzoylamino-4-pyridyl)-1-(3,5-dimethylphenyl)ethanone | 19 mmol, 6.4 g | C(C1=CC=CC=C1)(=O)NC1=NC=CC(=C1)CC(=O)C1=CC(=CC(=C1)C)C | C22H20N2O2
reactant | thiourea | 19 mmol, 1.5 g | NC(=S)N | CH4N2S
reactant | triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | 200 mL | C(O)([O-])=O.[Na+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | N-[4-[2-amino-4-(3,5-dimethylphenyl)-1,3-thiazol-5-yl]-2-pyridyl]benzamide | 13 mmol, 5.0 g, yield 68% | NC=1SC(=C(N1)C1=CC(=CC(=C1)C)C)C1=CC(=NC=C1)NC(C1=CC=CC=C1)=O | C23H20N4OS
